US04497650
N-(3,4-Dichlorophenyl)-4-oxo-2,3,4,10-tetrahydro-2,2,3-trimethyl-1,3,5-triazino[1,2-a]benzimidazole-10-carboxamide
The procedure of Example 10 was employed to prepare the title compound from 1,2-dihydro-2,2,3-trimethyl-1,3,5-triazino[1,2-a]benzimidazol-4(3H)-one and 3,4-dichlorophenyl isocyanate. The confirmatory elemental analysis for the product, mp 198°-200° C., is shown in Table III.

reactant | 1,2-dihydro-2,2,3-trimethyl-1,3,5-triazino[1,2-a]benzimidazol-4(3H)-one | CC1(NC2=NC3=C(N2C(N1C)=O)C=CC=C3)C | C12H14N4O
reactant | 3,4-dichlorophenyl isocyanate | ClC=1C=C(C=CC1Cl)N=C=O | C7H3Cl2NO
product | N-(3,4-Dichlorophenyl)-4-oxo-2,3,4,10-tetrahydro-2,2,3-trimethyl-1,3,5-triazino[1,2-a]benzimidazole-10-carboxamide | ClC=1C=C(C=CC1Cl)NC(=O)N1C=2N(C3=C1C=CC=C3)C(N(C(N2)(C)C)C)=O | C19H17Cl2N5O2
